US04472433
A mixture of 2-oxo-3-methylthio-7-(β-naphthoxy)indoline (7.6 g) and Raney nickel (17 ml) in dioxane (100 ml) was treated in a similar manner to that of Example 39-(1) to give 2-oxo-7-(β-naphthoxy)indoline (5.4 g). mp 195°-197° C.

reactant | 2-oxo-3-methylthio-7-(β-naphthoxy)indoline | 7.6 g | O=C1NC2=C(C=CC=C2C1SC)OC1=CC2=CC=CC=C2C=C1 | C19H15NO2S
catalyst | Raney nickel | 17 ml | [Ni] | Ni
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | 2-oxo-7-(β-naphthoxy)indoline | 5.4 g | O=C1NC2=C(C=CC=C2C1)OC1=CC2=CC=CC=C2C=C1 | C18H13NO2
